US04979981
Preparation of 2-Benzylthio-5-fluoromethyl-7-hydroxy-1,2,4-triazolo[1,5-a]pyrimidine
A solution containing 20.0 g (114 mmol) of t-butyl 4-fluoroacetoacetate, 23.4 g (114 mmol) of 3-amino-5-benzylthio-1,2,4-triazole in 250 ml of glacial acetic acid was heated at reflux with stirring for 5.5 hr and then allowed to cool and stand overnight. The crystals that formed were ground to reduce their size and then recovered by filtration and dried in a vacuum oven to obtain 18.3 g (55 percent of theory) of the title product as a white powder melting with decomposition at 214°-218° C.

reactant | t-butyl 4-fluoroacetoacetate | 114 mmol, 20.0 g | FCC(CC(=O)OC(C)(C)C)=O | C8H13FO3
reactant | 3-amino-5-benzylthio-1,2,4-triazole | 114 mmol, 23.4 g | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2-Benzylthio-5-fluoromethyl-7-hydroxy-1,2,4-triazolo[1,5-a]pyrimidine | C(C1=CC=CC=C1)SC1=NN2C(N=C(C=C2O)CF)=N1 | C13H11FN4OS
